US07439354B2
Preparation of 2,6-dimethyl-7a-undecyl-tetrahydro-2H-oxazolo[2,3-b]oxazole.
To a 1 liter stirred reactor, equipped with a distillation column, condenser, and graduated receiver, the following constituents were added: 261.2 g of diisopropanol amine (DIPA) and 432.0 g (98%) of methyl laurate. The contents were heated slowly to 230° C. under a nitrogen blanket. After 5.5 hours, 57 ml of methanol (0.72 equivalent) had come overhead. The pressure was then slowly lowered to strip out unreacted DIPA. At a batch temperature of 180° C. and a pressure of 293 Pa, a cut consisting of 79.7 g of DIPA and 87.8 g of methyl laurate was removed. The batch temperature was then raised to 200° C. and the pressure dropped to 267 Pa. During this period, a cut of 140.9 g of the amide acetal was recovered. This represents a 35.7% conversion of the methyl laurate to amide acetal.

reactant | diisopropanol amine | 261.2 g | CC(CNCC(C)O)O | C6H15NO2
reactant | methyl laurate | 432.0 g | C(CCCCCCCCCCC)(=O)OC | C13H26O2
reactant | methanol | 57 ml, 0.72 equivalent | CO | CH4O
reactant | DIPA | 79.7 g | CC(CNCC(C)O)O | C6H15NO2
reactant | methyl laurate | 87.8 g | C(CCCCCCCCCCC)(=O)OC | C13H26O2
product | 2,6-dimethyl-7a-undecyl-tetrahydro-2H-oxazolo[2,3-b]oxazole | CC1CN2C(OC(C2)C)(O1)CCCCCCCCCCC | C18H35NO2
